US07282494B2
1-(5-Chloro-3-pyridyl)-4-tert-butoxycarbonyl homopiperazine (Compound 2F 15)
Was prepared from 1-(5-Chloro-3-pyridyl)-homopiperazine according to 1-(5-Bromo-3-pyridyl)-4-tert-butoxycarbonylhomopiperazine.

reactant | 1-(5-Chloro-3-pyridyl)-homopiperazine | ClC=1C=C(C=NC1)N1CCNCCC1 | C10H14ClN3
reactant | 1-(5-Bromo-3-pyridyl)-4-tert-butoxycarbonylhomopiperazine | BrC=1C=C(C=NC1)N1CCN(CCC1)C(=O)OC(C)(C)C | C15H22BrN3O2
product | 1-(5-Chloro-3-pyridyl)-4-tert-butoxycarbonyl homopiperazine | ClC=1C=C(C=NC1)N1CCN(CCC1)C(=O)OC(C)(C)C | C15H22ClN3O2
